US07238808B2
Step 4) 3-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyridin-2-ylamine
A mixture of 5-bromo-3-trifluoromethyl-pyridin-2-ylamine (11.5 g, 48 mmol) with 4-trifluormethylphenylboronic acid (9.97 g, 52 mmol) , Pd(PPh3)4 (551 mg, 1 mol %) and 1M aq. Na2CO3 soln. (111 mL, 111 mmol) in DME (250 mL) at reflux for 1 h. Poured on ice water, extracted with EtOAc, dried over Na2SO4 and concentrated. Purified by column chromatography (heptane/AcOEt 2:1), then triturated the collected solids with heptane and a few drops of ether, ultrasound sonication for 10 min, filtrated and dried in to give the product as a white crystalline solid (12.77 g, 87%). MS (ISP) 307.2 [(M+H)+].

reactant | 5-bromo-3-trifluoromethyl-pyridin-2-ylamine | 48 mmol, 11.5 g | BrC=1C=C(C(=NC1)N)C(F)(F)F | C6H4BrF3N2
reactant | 4-trifluormethylphenylboronic acid | 52 mmol, 9.97 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | Na2CO3 | 1M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 250 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 551 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyridin-2-ylamine | 12.77 g, 87% | FC(C=1C(=NC=C(C1)C1=CC=C(C=C1)C(F)(F)F)N)(F)F | C13H8F6N2
